US04323570
4-chloro-6-ethoxy-2-methyl-5-(2-imidazolin-2-yl)-aminopyrimidine
3.0 g 4,6-dichloro-2-methyl-5-(1-acetyl-2-imidazolin-2-yl)-aminopyrimidine are introduced at room temperature into a solution of 0.5 g sodium in 10 ml ethanol. Subsequently, the solution is heated for 30 minutes to 75° C., filtered, the filtrate is concentrated, the residue is placed in ice water, and the crystals are vacuum dried. After recrystallization from nitromethane, 1.2 g (45%) of 4-chloro-6-ethoxy-2-methyl-5-(2-imidazolin-2-yl)-aminopyrimidine, melting point 221° C., is obtained.

reactant | 4,6-dichloro-2-methyl-5-(1-acetyl-2-imidazolin-2-yl)-aminopyrimidine | 3.0 g | ClC1=NC(N(C(=C1C=1N(CCN1)C(C)=O)Cl)N)C | C10H13Cl2N5O
reactant | sodium | 0.5 g | [Na] | Na
reactant | ethanol | 10 ml | C(C)O | C2H6O
product | 4-chloro-6-ethoxy-2-methyl-5-(2-imidazolin-2-yl)-aminopyrimidine | ClC1=NC(N(C(=C1C=1NCCN1)OCC)N)C | C10H16ClN5O
